US07265131B2
A mixture of trifluoromethanesulfonic acid 8-chloro-2-(2,4-dimethylbenzyl)-1-oxo-1,2-dihydroisoquinolin-3-yl ester (61.9 mg, 0.14 mmol), 4-phenoxyphenylboronic acid (45.9 mg, 0.21 mmol), and triphenylarsine (17.6 mg, 57.5 μmol) in THF (0.7 mL) under a nitrogen atmosphere was treated with bis-(acetonitrile) palladium (II) chloride (4.6 mg, 17.7 μmol) and aqueous sodium carbonate solution (0.7 mL of a 2 M solution) with vigorous stirring at ambient temperature. After 90 minutes stirring at ambient temperature, TLC analysis showed only a trace of starting trifluoromethanesulfonic acid 8-chloro-2-(2,4-dimethylbenzyl)-1-oxo-1,2-dihydroisoquinolin-3-yl ester remaining. The reaction was diluted with ether (20 mL), and water (10 mL). The basic aqueous layer was extracted with ether (3×10 mL). The combined organic extracts were washed with brine, dried over Na2SO4, filtered, and conc. to afford a yellow semi-solid. The material was purified by silica gel column chromatography eluting with a gradient from 0% to 10% ethyl acetate/hexane. The main peak was collected to afford 8-chloro-2-(2,4-dimethylbenzyl)-3-(4-phenoxyphenyl)-2H-isoquinolin-1-one (41 mg, 63% yield) as a brittle white foam contaminated with a small amount (<10%) of an impurity: 1H-NMR (400 MHz, CDCl3): δ 7.51-7.49 (2H, m), 7.41-7.34 (3H, m), 7.18-7.11 (3H, m),7.04-7.00 (2H, m), 6.94-6.84 (5H, m), 6.68 (1H, d, J=7.8 Hz), 6.42 (1H, s), 5.09 (2H, s), 2.24 (3H, s), 2.00 (3H, s) ppm.

reactant | trifluoromethanesulfonic acid 8-chloro-2-(2,4-dimethylbenzyl)-1-oxo-1,2-dihydroisoquinolin-3-yl ester | 0.14 mmol, 61.9 mg | ClC=1C=CC=C2C=C(N(C(C12)=O)CC1=C(C=C(C=C1)C)C)OS(=O)(=O)C(F)(F)F | C19H15ClF3NO4S
reactant | 4-phenoxyphenylboronic acid | 0.21 mmol, 45.9 mg | O(C1=CC=CC=C1)C1=CC=C(C=C1)B(O)O | C12H11BO3
reactant | triphenylarsine | 57.5 μmol, 17.6 mg | C1(=CC=CC=C1)[As](C1=CC=CC=C1)C1=CC=CC=C1 | C18H15As
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | THF | 0.7 mL | C1CCOC1 | C4H8O
solvent | ether | 20 mL | CCOCC | C4H10O
solvent | water | 10 mL | O | H2O
catalyst | bis-(acetonitrile) palladium (II) chloride | 17.7 μmol, 4.6 mg | [Pd](Cl)Cl.C(C)#N.C(C)#N
product | 8-chloro-2-(2,4-dimethylbenzyl)-3-(4-phenoxyphenyl)-2H-isoquinolin-1-one | 41 mg, 63% yield | ClC=1C=CC=C2C=C(N(C(C12)=O)CC1=C(C=C(C=C1)C)C)C1=CC=C(C=C1)OC1=CC=CC=C1 | C30H24ClNO2
